US07550461B2
To a suspension of 7-nitro-benzo[b]thiophene-2-carboxylic acid methyl ester (1.0 g) in THF/MeOH (40 mL/40 mL) was added 8.4 mL (2.0 eq) of 1N NaOH. The reaction was stirred at room temperature for 2 h. The solvent was removed in vacuo. The residue was diluted with H2O/EtOAc, acidified with 3N HCl and extracted with EtOAc. The organics were dried over MgSO4, filtered and concentrated to give 7-nitro-benzo[b]thiophene-2-carboxylic acid as a light yellow solid (928 mg, 98% yield).

reactant | 7-nitro-benzo[b]thiophene-2-carboxylic acid methyl ester | 1.0 g | COC(=O)C1=CC2=C(S1)C(=CC=C2)[N+](=O)[O-] | C10H7NO4S
reactant | NaOH | 1N, 8.4 mL, 2.0 eq | [OH-].[Na+]
solvent | THF MeOH | 40 mL | C1CCOC1.CO
product | 7-nitro-benzo[b]thiophene-2-carboxylic acid | 928 mg, 98% yield | [N+](=O)([O-])C1=CC=CC2=C1SC(=C2)C(=O)O | C9H5NO4S
